US07553969B1
(6) 2-((2-amino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(2-pyridylcarbamoyl)ethylamide
To a solution of 2-((2-butoxycarbonylamino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(2-pyridylcarbamoyl)ethylamide (1.67 g, 2.41 mmol) in methylene chloride (30 ml), TFA (5 ml) was added and stirred at room temperature for 1.5 hours. The reaction mixture was evaporated under reduced pressure; the thus obtained residue was mixed with chloroform, washed with a saturated aqueous NaHCO3 solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure. The thus obtained residue was subjected to silica gel column chromatography (developing solvent: methanol:aqueous ammonia:methylene chloride=3:0.1:100), giving the titled compound (370 mg).

reactant | 2-((2-butoxycarbonylamino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(2-pyridylcarbamoyl)ethylamide | 2.41 mmol, 1.67 g | C(C)(C)(C)C=1C=C(C=CC1O)CC(C(NC1=NC=CC=C1)=O)NC(C(C(C)C)N(C)C(C(CC1=CC=C(C=C1)F)NC(=O)OCCCC)=O)=O | C38H50FN5O6
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-((2-amino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(2-pyridylcarbamoyl)ethylamide | 370 mg | C(C)(C)(C)C=1C=C(C=CC1O)CC(C(NC1=NC=CC=C1)=O)NC(C(C(C)C)N(C)C(C(CC1=CC=C(C=C1)F)N)=O)=O | C33H42FN5O4
